US03953604
A mixture of 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-methoxy-phenoxypropane (10.0 g), ethyl alcohol (5 ml) benzene (100 ml) and concentrated sulphuric acid (5 drops) was heated under a Dean and Stark phase separator for 20 hours. The cooled solution was washed with saturated sodium bicarbonate solution and then with water. Removal of the benzene under reduced pressure afforded a solid which was recrystallized from aqueous dioxane to give 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-p-methoxyphenoxypropane, m.p. 135°-136.5° C as white needles.

reactant | 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-methoxy-phenoxypropane | 10.0 g | C(=O)(O)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)OC)O | C20H18O8
reactant | ethyl alcohol | 5 ml | C(C)O | C2H6O
catalyst | sulphuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-p-methoxyphenoxypropane | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)OC)O | C22H22O8
